US08227500B2
2-Amino-4-(3-cyano-4-phenylpyrrole-1-yl)benzoic acid ethyl ester
To a solution of 4-(3-cyano-4-phenylpyrrole-1-yl)-2-nitro-benzoic acid ethyl ester (0.090 g) in a mixed solvent of methanol (2.5 mL) and ethyl acetate (2.5 mL) was added 10% palladium-carbon powder (0.016 g) under an argon atmosphere, and this mixture was stirred at 40° C. under a hydrogen atmosphere for 3 hours. After this reaction mixture was replaced under an argon atmosphere, the insoluble material was removed by suction through a Celite pad. This filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate/hexane=50/50) to give the title compound (0.070 g).

reactant | 4-(3-cyano-4-phenylpyrrole-1-yl)-2-nitro-benzoic acid ethyl ester | 0.090 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)[N+](=O)[O-])=O | C20H15N3O4
reactant | methanol | 2.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.016 g | [C].[Pd]
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-(3-cyano-4-phenylpyrrole-1-yl)benzoic acid ethyl ester | 0.070 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)N)=O | C20H17N3O2
